US08242116B2
Dimethyl 4-nitrobenzene-1,3-dicarboxylate
To a stirred solution of methyl 3-formyl-4-nitrobenzoate (1.5 g, 7.18 mmol) in formic acid (2 mL) was added hydrogen peroxide (2.5 mL, 30% in water). The reaction mixture was stirred at r.t. for 16 h. Additional hydrogen peroxide (2.5 mL, 30% in water) was added, and the reaction mixture stirred at r.t. for 8 h before being concentrated in vacuo. The residue was dissolved in 2% HCl in MeOH (40 mL). The solution was stirred at 70° C. for 4 days, then concentrated in vacuo. The residue was dissolved in DCM (10 mL), and the solution washed with aqueous sat. NaHCO3 (2×10 mL), dried (MgSO4), filtered and concentrated in vacuo to give the title compound (1.52 g, 87%) as a colourless oil. δH (CDCl3) 8.43 (1H, s), 8.29 (1H, dd, J 1.8 and 8.6 Hz), 7.92 (1H, d, J 8.3 Hz), 3.99 (3H, s), 3.95 (3H, s). LCMS (ES+) 240.0 (M+H)+, RT 1.80 minutes (Method 12).

reactant | methyl 3-formyl-4-nitrobenzoate | 7.18 mmol, 1.5 g | C(=O)C=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C9H7NO5
reactant | hydrogen peroxide | 2.5 mL | OO | H2O2
reactant | hydrogen peroxide | 2.5 mL | OO | H2O2
reactant | formic acid | 2 mL | C(=O)O | CH2O2
product | Dimethyl 4-nitrobenzene-1,3-dicarboxylate | 1.52 g, 87% | [N+](=O)([O-])C1=C(C=C(C=C1)C(=O)OC)C(=O)OC | C10H9NO6
